US07553862B2
(Rac)-4-benzylamino-1-(4-methoxy-phenyl)-5-phenyl-1,5-dihydro-imidazol-2-one hydrochloride
20 mg of (Rac)-4-benzylamino-1-(4-methoxy-phenyl)-5-phenyl-1,5-dihydro-imidazol-2-one was stirred for 2 hours at room temperature in a solution of 3N HCl in methanol. Evaporation of the solvent gave the title compound. m/z (EI) 372.2 (100%, M+H+).

reactant | (Rac)-4-benzylamino-1-(4-methoxy-phenyl)-5-phenyl-1,5-dihydro-imidazol-2-one | 20 mg | C(C1=CC=CC=C1)NC1=NC(N(C1C1=CC=CC=C1)C1=CC=C(C=C1)OC)=O | C23H21N3O2
reactant | HCl | 3N | Cl | ClH
solvent | methanol | CO | CH4O
product | (Rac)-4-benzylamino-1-(4-methoxy-phenyl)-5-phenyl-1,5-dihydro-imidazol-2-one hydrochloride | Cl.C(C1=CC=CC=C1)NC1=NC(N(C1C1=CC=CC=C1)C1=CC=C(C=C1)OC)=O | InChI=1S/C23H21N3O2.ClH/c1-28-20-14-12-19(13-15-20)26-21(18-10-6-3-7-11-18)22(25-23(26)27)24-16-17-8-4-2-5-9-17;/h2-15,21H,16H2,1H3,(H,24,25,27);1H
